US06140100
To a dry 100 mL 3-necked flask equipped with a magnetic stirrer and a nitrogen inlet were added 3.00 g of 2-fluoro-4-nitrobenzoic acid, 3.00 g of NaHCO3, and 20 mL of anhydrous dimethylacetamide. The suspension was treated with 3.50 mL of ethyl iodide and stirred at RT under N2 for 18 h. The reaction mixture was filtered to remove solids and the filtrate concentrated in vacuo to give an orange residue which was dissolved in 100 mL of CH2Cl2. The solution was washed with saturated aqueous NaHCO3 (3×50 mL), water (1×60 mL), and dried over anhydrous Na2SO4. Removal of drying agent by filtration and passage through a silica gel plus (3×5 cm) gave a light yellow solution which was concentrated in vacuo to afford 3.10 g (90%) of ethyl 2-fluoro-4-nitrobenzoate as a light yellow crystalline solid, m.p. 70-73° C.

reactant | 2-fluoro-4-nitrobenzoic acid | 3.00 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | NaHCO3 | 3.00 g | C(=O)(O)[O-].[Na+]
reactant | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
reactant | ethyl iodide | 3.50 mL | C(C)I | C2H5I
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-fluoro-4-nitrobenzoate | 3.10 g, 90% | FC1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C9H8FNO4
